US07517878B2
The synthesis of a 2-halopyridine sulfonamide intermediate is illustrated in Reaction Scheme L. The 2-chloro-3-aminopyridine is converted to the 2-chloropyridinesulfonyl chloride by reaction with sodium nitrite/acid and sulfuryl chloride. This compound is then allowed to react with dibenzylamine to provide the desired 2-chloropyridine 3-sulfonamide intermediate. This compound may then be carried on to a final product using the methods described in Reaction Schemes A and D.

reactant | 2-chloro-3-aminopyridine | ClC1=NC=CC=C1N | C5H5ClN2
reactant | 2-chloropyridinesulfonyl chloride | ClC1(NC=CC=C1)S(=O)(=O)Cl | C5H5Cl2NO2S
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
product | 2-chloropyridine 3-sulfonamide | ClC1=NC=CC=C1S(=O)(=O)N | C5H5ClN2O2S
